US07534797B2
trans-[4-(8-Chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methanol
trans-[4-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methanol (18.00 g, 67.74 mmol) and N-iodosuccinimide (19.81 g, 88.06 mmol) in anhydrous DMF (360 mL) were stirred at 60° C. under N2 for 6 h. The reaction was diluted with DCM (˜600 mL), washed with water and brine, dried over anhydrous Na2SO4 and then concentrated in vacuo. The crude material was purified by a silica gel flash chromatography (eluted with 1:2 EtOAc/DCM to 1:1 EtOAc/DCM) to obtain the desired product as a pale yellow solid; By 1H NMR analysis, the product was contaminated with 0.35 equiv of NIS-impurity. The product was carried onto the next reaction without further purification; MS (ES+): m/z 391.92 (100) [MH+], 393.88 (50) [MH+2], 394.89 (10) [MH+3]; tR(polar-5 min/openlynx) 2.79 min.

reactant | trans-[4-(8-Chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methanol | 67.74 mmol, 18.00 g | ClC=1C=2N(C=CN1)C(=NC2)[C@@H]2CC[C@H](CC2)CO | C13H16ClN3O
reactant | N-iodosuccinimide | 88.06 mmol, 19.81 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 360 mL | CN(C)C=O | C3H7NO
solvent | DCM | ˜600 mL | C(Cl)Cl | CH2Cl2
product | trans-[4-(8-Chloro-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methanol | ClC=1C=2N(C=CN1)C(=NC2I)[C@@H]2CC[C@H](CC2)CO | C13H15ClIN3O
